US07615562B2
4-[5-(2-Chloro-5-methyl-pyrimidin-4-yl)-thiophen-2-yl]-butyric acid methyl ester was prepared analogous to Step B of Method A, starting from 4-thiophen-2-yl-butyric acid methyl ester and 2,4-dichloro-5-methyl-pyrimidine. Yield: 12%.

reactant | 4-thiophen-2-yl-butyric acid methyl ester | COC(CCCC=1SC=CC1)=O | C9H12O2S
reactant | 2,4-dichloro-5-methyl-pyrimidine | ClC1=NC=C(C(=N1)Cl)C | C5H4Cl2N2
product | 4-[5-(2-Chloro-5-methyl-pyrimidin-4-yl)-thiophen-2-yl]-butyric acid methyl ester | Yield: 12% | COC(CCCC=1SC(=CC1)C1=NC(=NC=C1C)Cl)=O | C14H15ClN2O2S
